US04130652
With the use of 76.8 g (0.3 mole) of 3',4'-dichloro-2-(2-pyrrolidinylidene)-acetophenone, there is obtained in an analogous manner 2-[2-(3,4-dichlorophenyl)-2-(cyclohexylimino)-ethylidene]-pyrrolidine-(1:1)-fumarate, m.p. 208°-209° (from isopropanol/ether).

reactant | 2-[2-(3,4-dichlorophenyl)-2-(cyclohexylimino)-ethylidene]-pyrrolidine- | ClC=1C=C(C=CC1Cl)C(C=C1NCCC1)=NC1CCCCC1 | C18H22Cl2N2
reactant | fumarate | C(\C=C\C(=O)[O-])(=O)[O-]
solvent | isopropanol ether | C(C)(C)O.CCOCC
product | 3',4'-dichloro-2-(2-pyrrolidinylidene)-acetophenone | 0.3 mole, 76.8 g | ClC=1C=C(C=CC1Cl)C(C=C1NCCC1)=O | C12H11Cl2NO
